US06288260B1
Preparation of 2-Ethoxycarbonyl-3-methylene-7-oxa-5-norbornene via the Diels-Alder Reaction
Ethyl 2,3-butadienoate (0.84 g, 7.5 mmol) and 2.52 g of furan (37 mmol) were combined in a flask under nitrogen and cooled to 0° C. Anhydrous zinc chloride (0.25 g, 1.8 mmol) was added, then the reaction mixture was warmed to room temperature and stirred overnight. NMR analysis indicated that the reaction was complete. Toluene and dilute HCl were added. A black lump of material separated. The toluene and water phases were decanted. The toluene phase was washed with water, filtered and rotovapped. Methylene chloride and aqueous HCl were added to the black solids which dissolved. The methylene chloride phase was washed with water, combined with the rotovapped toluene phase and stripped. A total of 1.18 g of a light brown liquid was obtained.

reactant | Ethyl 2,3-butadienoate | 7.5 mmol, 0.84 g | C(C=C=C)(=O)OCC | C6H8O2
reactant | furan | 37 mmol, 2.52 g | O1C=CC=C1 | C4H4O
reactant | HCl | Cl | ClH
catalyst | zinc chloride | 1.8 mmol, 0.25 g | [Cl-].[Zn+2].[Cl-]
solvent | Toluene | C1(=CC=CC=C1)C | C7H8
product | 2-Ethoxycarbonyl-3-methylene-7-oxa-5-norbornene | 1.18 g | C(C)OC(=O)C1C2C=CC(C1=C)O2 | C10H12O3
